US08835418B2
14.1. tert-Butyl 4-[2-(5-carbamoylpyrazin-2-ylamino)ethyl]piperidine-1-carboxylate
A mixture of 1.12 g (7.15 mmol) of 5-chloropyrazine-2-carboxamide, 1.95 g (8.58 mmol) of tert-butyl 4-(2-aminoethyl)piperidine-1-carboxylate and 1.18 g (8.58 mmol) of potassium carbonate in 1.4 ml of dimethyl sulphoxide is heated during 5 hours at 100° C. under an argon atmosphere and with stirring. After cooling to ambient temperature, 25 ml of ethyl acetate and 25 ml of water are added. The organic phase is separated by settling and washed 3 times with 25 ml of water and then 25 ml of a saturated aqueous sodium chloride solution. It is dried over sodium sulphate and evaporated to dryness. The residue is purified by chromatography on silica gel, elution being carried out with a 97:3, then 95:5 and 93:7 mixture of dichloromethane and methanol, in order to obtain 1.99 g (5.69 mmol) of product in the form of a light-yellow paste.

reactant | 5-chloropyrazine-2-carboxamide | 7.15 mmol, 1.12 g | ClC=1N=CC(=NC1)C(=O)N | C5H4ClN3O
reactant | tert-butyl 4-(2-aminoethyl)piperidine-1-carboxylate | 8.58 mmol, 1.95 g | NCCC1CCN(CC1)C(=O)OC(C)(C)C | C12H24N2O2
reactant | potassium carbonate | 8.58 mmol, 1.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulphoxide | 1.4 ml | CS(=O)C | C2H6OS
solvent | water | 25 ml | O | H2O
product | tert-Butyl 4-[2-(5-carbamoylpyrazin-2-ylamino)ethyl]piperidine-1-carboxylate | 5.69 mmol, 1.99 g | C(N)(=O)C=1N=CC(=NC1)NCCC1CCN(CC1)C(=O)OC(C)(C)C | C17H27N5O3
